US07456176B2
The reaction scheme (CCLXIX) illustrates a synthetic process rthat included dropwise adding of 6.4 g bromine (40 mmol) to a solution of 4-nitrobenzene-1,3-diamine (5.56 g, 36.3 mmol), in 50 mL 1,4-dioxane, followed by stirring the solution was room temperature for 16 h. The yellow precipitate was isolated by filtration, washed with 1,4-dioxane (30 mL) and dried in vacuo to give 4-bromo-6-nitro-benzene-1,3-diamine dihydrobromide salt designated on the reaction scheme (CCLXIX) as compound 13 (8 g, 95%).

reactant | bromine | 40 mmol, 6.4 g | BrBr | Br2
reactant | 4-nitrobenzene-1,3-diamine | 36.3 mmol, 5.56 g | [N+](=O)([O-])C1=C(C=C(C=C1)N)N | C6H7N3O2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 4-bromo-6-nitro-benzene-1,3-diamine dihydrobromide salt | Br.Br.BrC1=C(C=C(C(=C1)[N+](=O)[O-])N)N | InChI=1S/C6H6BrN3O2.2BrH/c7-3-1-6(10(11)12)5(9)2-4(3)8;;/h1-2H,8-9H2;2*1H
